US06756359B2
To a solution of 4-iodoimidazole (1 eq) in DMF at room temperature was added triphenylmethyl chloride (1.2 eq). After stirring at room temperature for 24 hours, the solution was poured into ice water and left stirring for 30 minutes. The solid was filtered and pumped on for several hours to yield the crude compound. Ethyl ether was added to the crude compound and the solution was filtered to yield 4-Iodo-1-trityl-1H-imidazole (92%) as a white solid. MH+(437).

reactant | 4-iodoimidazole | 1 eq | IC=1N=CNC1 | C3H3IN2
reactant | triphenylmethyl chloride | 1.2 eq | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Iodo-1-trityl-1H-imidazole | 92% | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
